* eFuse array netlist with word_width=8, nwords=32

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__inv_1 I ZN VDD VNW VPW VSS
X0 ZN I VSS VPW nfet_06v0 W=8.2e-07 L=6e-07  
X1 ZN I VDD VNW pfet_06v0 W=1.22e-06 L=5e-07
.ENDS

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__inv_2 I ZN VDD VNW VPW VSS
X00 ZN I VSS VPW nfet_06v0 W=8.2e-07 L=6e-07
X01 VSS I ZN VPW nfet_06v0 W=8.2e-07 L=6e-07
X10 ZN I VDD VNW pfet_06v0 W=1.22e-06 L=5e-07
X11 VDD I ZN VNW pfet_06v0 W=1.22e-06 L=5e-07
.ENDS

.SUBCKT gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
X17 net_1 net_0 VSS VPW nfet_06v0 W=8.2e-07 L=1e-06
X19 VDD net_1 net_0 VNW pfet_06v0 W=1.22e-06 L=1e-06
.ENDS

.subckt efuse_bitcell VSS VDD SELECT ANODE PARAMS: NUM=-1
X0 ANODE CATHODE efuse NUM={NUM}
X1 CATHODE SELECT VSS VSS nfet_06v0 L=0.60u W=30.5u
.ends

.subckt efuse_senseamp VSS VPW VDD PRESET_N OUT SENSE FUSE
X2 net1 PRESET_N VDD VDD pfet_06v0 L=0.5u W=3.66u nf=3
X1 net2 OUT VDD VDD VPW VSS  gf180mcu_fd_sc_mcu7t5v0__inv_1
X2 net1 net2 VDD VDD VPW VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
X3 net2 net1 VDD VDD VPW VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
X1 net1 SENSE FUSE VPW nfet_06v0 L=0.60u W=0.82u
.ends


.subckt efuse_bitline VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31] COL_PROG_N OUT PARAMS: LNUM=0
X0 VSS VDD BIT_SEL[0] bitline efuse_bitcell NUM={LNUM*1000+0}
X1 VSS VDD BIT_SEL[1] bitline efuse_bitcell NUM={LNUM*1000+1}
X2 VSS VDD BIT_SEL[2] bitline efuse_bitcell NUM={LNUM*1000+2}
X3 VSS VDD BIT_SEL[3] bitline efuse_bitcell NUM={LNUM*1000+3}
X4 VSS VDD BIT_SEL[4] bitline efuse_bitcell NUM={LNUM*1000+4}
X5 VSS VDD BIT_SEL[5] bitline efuse_bitcell NUM={LNUM*1000+5}
X6 VSS VDD BIT_SEL[6] bitline efuse_bitcell NUM={LNUM*1000+6}
X7 VSS VDD BIT_SEL[7] bitline efuse_bitcell NUM={LNUM*1000+7}
X8 VSS VDD BIT_SEL[8] bitline efuse_bitcell NUM={LNUM*1000+8}
X9 VSS VDD BIT_SEL[9] bitline efuse_bitcell NUM={LNUM*1000+9}
X10 VSS VDD BIT_SEL[10] bitline efuse_bitcell NUM={LNUM*1000+10}
X11 VSS VDD BIT_SEL[11] bitline efuse_bitcell NUM={LNUM*1000+11}
X12 VSS VDD BIT_SEL[12] bitline efuse_bitcell NUM={LNUM*1000+12}
X13 VSS VDD BIT_SEL[13] bitline efuse_bitcell NUM={LNUM*1000+13}
X14 VSS VDD BIT_SEL[14] bitline efuse_bitcell NUM={LNUM*1000+14}
X15 VSS VDD BIT_SEL[15] bitline efuse_bitcell NUM={LNUM*1000+15}
X16 VSS VDD BIT_SEL[16] bitline efuse_bitcell NUM={LNUM*1000+16}
X17 VSS VDD BIT_SEL[17] bitline efuse_bitcell NUM={LNUM*1000+17}
X18 VSS VDD BIT_SEL[18] bitline efuse_bitcell NUM={LNUM*1000+18}
X19 VSS VDD BIT_SEL[19] bitline efuse_bitcell NUM={LNUM*1000+19}
X20 VSS VDD BIT_SEL[20] bitline efuse_bitcell NUM={LNUM*1000+20}
X21 VSS VDD BIT_SEL[21] bitline efuse_bitcell NUM={LNUM*1000+21}
X22 VSS VDD BIT_SEL[22] bitline efuse_bitcell NUM={LNUM*1000+22}
X23 VSS VDD BIT_SEL[23] bitline efuse_bitcell NUM={LNUM*1000+23}
X24 VSS VDD BIT_SEL[24] bitline efuse_bitcell NUM={LNUM*1000+24}
X25 VSS VDD BIT_SEL[25] bitline efuse_bitcell NUM={LNUM*1000+25}
X26 VSS VDD BIT_SEL[26] bitline efuse_bitcell NUM={LNUM*1000+26}
X27 VSS VDD BIT_SEL[27] bitline efuse_bitcell NUM={LNUM*1000+27}
X28 VSS VDD BIT_SEL[28] bitline efuse_bitcell NUM={LNUM*1000+28}
X29 VSS VDD BIT_SEL[29] bitline efuse_bitcell NUM={LNUM*1000+29}
X30 VSS VDD BIT_SEL[30] bitline efuse_bitcell NUM={LNUM*1000+30}
X31 VSS VDD BIT_SEL[31] bitline efuse_bitcell NUM={LNUM*1000+31}
X0 bitline COL_PROG_N VDD VDD pfet_06v0 L=0.50u W=76.5u nf=2
X1 bitline COL_PROG_N VDD VDD pfet_06v0 L=0.50u W=76.5u nf=2
Xsense VSS VSS VDD PRESET_N OUT SENSE bitline efuse_senseamp
.ends
    

.subckt efuse_array_32x8 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31] COL_PROG_N[0] OUT[0] COL_PROG_N[1] OUT[1] COL_PROG_N[2] OUT[2] COL_PROG_N[3] OUT[3] COL_PROG_N[4] OUT[4] COL_PROG_N[5] OUT[5] COL_PROG_N[6] OUT[6] COL_PROG_N[7] OUT[7]  
X0 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[0] OUT[0]  efuse_bitline LNUM=0
X1 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[1] OUT[1]  efuse_bitline LNUM=1
X2 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[2] OUT[2]  efuse_bitline LNUM=2
X3 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[3] OUT[3]  efuse_bitline LNUM=3
X4 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[4] OUT[4]  efuse_bitline LNUM=4
X5 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[5] OUT[5]  efuse_bitline LNUM=5
X6 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[6] OUT[6]  efuse_bitline LNUM=6
X7 VSS VDD SENSE PRESET_N BIT_SEL[0] BIT_SEL[1] BIT_SEL[2] BIT_SEL[3] BIT_SEL[4] BIT_SEL[5] BIT_SEL[6] BIT_SEL[7] BIT_SEL[8] BIT_SEL[9] BIT_SEL[10] BIT_SEL[11] BIT_SEL[12] BIT_SEL[13] BIT_SEL[14] BIT_SEL[15] BIT_SEL[16] BIT_SEL[17] BIT_SEL[18] BIT_SEL[19] BIT_SEL[20] BIT_SEL[21] BIT_SEL[22] BIT_SEL[23] BIT_SEL[24] BIT_SEL[25] BIT_SEL[26] BIT_SEL[27] BIT_SEL[28] BIT_SEL[29] BIT_SEL[30] BIT_SEL[31]   COL_PROG_N[7] OUT[7]  efuse_bitline LNUM=7

.ends
    
.end
    